US05232922
N-[4-(4-Hydroxyphenyl)piperazino]-5-chloro-1-methyl-4-imidazolesulfonamide
A solution of 20 g (93 mmol) of 5-chloro-1-methyl-4-imidazolesulfonyl chloride in 250 ml of chloroform is added dropwise at room temperature to 16 g (90 mmol) of 4-(4-hydroxyphenyl)piperazine in 250 ml of chloroform. 41 ml (0.3 mol) of triethylamine are then slowly added dropwise. When, after stirring for 6 hours at room temperature, acid chloride is no longer present by thin layer chromatography, the precipitate formed is filtered off, washed several times with water, dried and recrystallized from acetonitrile. The title compound melts at 249°-250° C.

reactant | 5-chloro-1-methyl-4-imidazolesulfonyl chloride | 93 mmol, 20 g | ClC1=C(N=CN1C)S(=O)(=O)Cl | C4H4Cl2N2O2S
reactant | 4-(4-hydroxyphenyl)piperazine | 90 mmol | OC1=CC=C(C=C1)N1CCNCC1 | C10H14N2O
reactant | triethylamine | 0.3 mol, 41 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(4-Hydroxyphenyl)piperazino]-5-chloro-1-methyl-4-imidazolesulfonamide | OC1=CC=C(C=C1)N1CCN(CC1)NS(=O)(=O)C=1N=CN(C1Cl)C | C14H18ClN5O3S
